US07968550B2
3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide
Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-amide (30 mg) and 2-chloropyridine (90 mg) were heated at 160° C. for 2 hours. 2-Chloropyridine (0.2 ml) was added and the mixture was again heated at 160° C. for 4 hours. The cooled crude mixture was purified by chromatography (silica gel, eluent: ethyl acetate/ammonia (3N in methanol)). This resulted in the product with the molecular weight of 393.54 (C23H31N5O); MS (ESI): 394 (M+H+).

reactant | Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-amide | 30 mg | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCNCC1)C | C18H28N4O
reactant | 2-chloropyridine | 90 mg | ClC1=NC=CC=C1 | C5H4ClN
reactant | 2-Chloropyridine | 0.2 ml | ClC1=NC=CC=C1 | C5H4ClN
product | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)C1=NC=CC=C1)C | C23H31N5O
